US08067445B2
Step 1: [2′-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-4′-(5-fluoro-pyridin-2-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: [2′-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-yl]-acetic acid ethyl ester and 2-bromo-5-fluoropyridine.

reactant | [2′-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN(CC)C(=O)OC(C)(C)C)=O | C31H44BNO7
reactant | 2-bromo-5-fluoropyridine | BrC1=NC=C(C=C1)F | C5H3BrFN
product | [2′-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-4′-(5-fluoro-pyridin-2-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C1=NC=C(C=C1)F)CN(CC)C(=O)OC(C)(C)C)=O | C30H35FN2O5
